US08604034B2
To a solution of methyl 1-[2-(4-hydroxyphenyl)-2-oxoethyl]-1H-pyrrole-2-carboxylate (200 mg, 0.77 mmol) in 1,4-dioxane (40 mL) was added ethane-1,2-diamine (1 mL, 15 mmol), after 48 h extra ethane-1,2-diamine (1 mL, 15 mmol) was added and the mixture heated for 48 additional hours. After that time 90% of the starting material was converted into the above product. The resulting mixture was then concentrated in vacuo to give a residue that was purified by flash chromatography (Biotage SP4, 12 g cartridge, gradient 0-10% MeOH in CH2Cl2) to give 10a-(4-hydroxyphenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (180 mg, yield: 86%). ESI-MI m/z [M+H]+ 270.1.

reactant | methyl 1-[2-(4-hydroxyphenyl)-2-oxoethyl]-1H-pyrrole-2-carboxylate | 0.77 mmol, 200 mg | OC1=CC=C(C=C1)C(CN1C(=CC=C1)C(=O)OC)=O | C14H13NO4
reactant | ethane-1,2-diamine | 15 mmol, 1 mL | C(CN)N | C2H8N2
reactant | ethane-1,2-diamine | 15 mmol, 1 mL | C(CN)N | C2H8N2
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 10a-(4-hydroxyphenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 180 mg, yield: 86% | OC1=CC=C(C=C1)C12N(C(C=3N(C1)C=CC3)=O)CCN2 | C15H15N3O2
